### PR TITLE
Count by proofs

### PR DESCRIPTION
**Pull request by jadephilipoom**
Progress on #371 

With a minor modification (using a bitvector as the state instead of an `N`), and depending on an admitted proof that `addN` is correct, I was able to take the counter and spec in #367 and prove that they correspond. I put in a little automation as well -- review commit-by-commit to see the proofs before I sprinkled tactic magic on them.

Next step is to prove the admitted `addN` lemma, but I thought it was worth getting feedback on this step first.

### CODE REVIEW

File: tests/Delay.v [hunk 1]
```diff
@@ -142,7 +145,7 @@ bit-growth i.e. it computes (a + b) mod 256.
 *)
 
 Section WithCava.
-  Context {signal} `{Cava signal} `{Monad cava}.
+  Context {signal} {semantics:Cava signal} `{Monad cava}.
```
Comment (jadephilipoom) [inline tests/Delay.v:148]: I named this argument because in some places I pass it in explicitly, and that looks neater (and is less fragile) if the argument has a name.

File: tests/Delay.v [hunk 2]
```diff
@@ -159,16 +162,62 @@ Proof. reflexivity. Qed.
...
+
+(* TODO: rename typeclass arguments *)
+Lemma addNCorrect n (a b : list (Bvector n)) :
+  sequential (addN (H:=SequentialCombSemantics) a b) = addNSpec a b.
+Admitted.
+Hint Rewrite addNCorrect using solve [eauto] : seqsimpl.
+
+Lemma countForkStep:
+  forall (i : Bvector 8) (s : Bvector 8),
+    sequential (countFork (semantics:=SequentialCombSemantics) ([i], [s]))
```
Comment (jadephilipoom) [inline tests/Delay.v:200]: This is where I pass the instance explicitly; if the argument is auto-named, it would be `(H:=SequentialCombSemantics)`, and the `H` would change if the order of auto-named arguments changed.

File: tests/Delay.v [hunk 3]
```diff
@@ -159,16 +162,62 @@ Proof. reflexivity. Qed.
...
-  | x::xs => let newState := (Bv2N x + state) mod 256 in
-             N2Bv_sized 8 newState :: countBySpec' newState xs 
+  | x::xs =>
+    let newState := N2Bv_sized 8 (Bv2N x + Bv2N state) in
+    newState :: countBySpec' newState xs
+  end.
+
+Definition countBySpec := countBySpec' (N2Bv_sized 8 0).
+
+(* TODO: addN sequential seems to only return one result; shouldn't it be a map2? *)
```
Comment (jadephilipoom) [inline tests/Delay.v:176]: @satnam6502 I think this might be happening because `addN` has a constant zero, and that constant zero is instantiated with `[false]` as per `zero` from `SequentialCombSemantics`. So it only runs for one timestep. This doesn't affect the counter because we run `addN` one step at a time, but I suspect it might be a problem in the future. We really want an infinite sequence of zeroes that we can truncate to match the input, which is hard to encode.

Comment (satnam6502) [reply tests/Delay.v:176]: Ah! I currently have an incorrect definition of `zero` for the sequential semantics. In the Haskell version `zero` is defined as an infinite list of zero values, which works fine with lazy evaluation. Here I need to know somehow "how many zeros" to generate.

File: tests/Delay.v [hunk 4]
```diff
@@ -159,16 +162,57 @@ Proof. reflexivity. Qed.
...
+  match a,b with
+  | a :: _, b :: _ => [N2Bv_sized n ((Bv2N a + Bv2N b))]
+  | _,_ => []
   end.
 
-Definition countBySpec := countBySpec' 0.
+(* TODO: rename typeclass arguments *)
+Lemma addNCorrect n (a b : list (Bvector n)) :
+  sequential (addN (H:=SequentialCombSemantics) a b) = addNSpec a b.
+Admitted.
```
Comment (satnam6502) [inline tests/Delay.v:195]: Since you've already done the proof for the ripple carry adder before, I think once we resolve the `zero` issue this should be easy?

**Review by satnam6502 — APPROVED** [review]

File: tests/Delay.v (hunk 4 above)
Comment (satnam6502) [reply tests/Delay.v:195]: I could have a go at porting the proofs. I think now the mainline monad kernel has absorbed all of what we used/developed for Acorn so it should be straight forward (famous last words).
